US05698546
A solution of 17,17'-[1,4-phenylenebis(methylene)]bis[3,6,14-tris(p-toluenesulphonyl)-3,6,14,17,23,24-hexaazatricyclo[17.3.1.18,12 ]tetracosa-1(23),8,10,12(24),19,21-hexaene] (280 mg, 0.166 mmol) in cone H2SO4 (2 ml) was stirred at 110° C. for 2 hours. The dark brown solution was cooled to room temperature and the pH adjusted to 14 with the addition of 10N NaOH. The aqueous phase was extracted with CHCl3 (20 ml, x 3), the combined organic phases were dried over MgSO4 and concentrated in vacuo thus affording a pale yellow oil. To a stirred solution of the oil in 10 ml of anhydrous EtOH was passed HBr(g) resulting in a white solid precipitate. After stirring for 15 minutes at room temperature the solid was filtered off, washed with ether and dried in vacuo giving 17,17'-[1,4-phenylenebis(methylene)]bis-3,6,14,17,23,24-hexaazatricyclo-[17.3.1.18,12 ]tetracosa-1(23),8,10,12(24),19,21-hexaene octahydrobromide (135 mg, 58%) as a white solid. 1H NMR (D2O) δ 3.73 (s, 8H), 3.94 (s, 8H), 4.38 (s, 8H), 4.45 (s, 8H), 6.86 (d, 2H, J=8.6 Hz), 7.19-7.24 (m, 6H), 7.47 (d, 4H, J=8.6 Hz), 7.56 (t, 2H, J=8.6 Hz), 7.87 (t, 2H, J=8.6 Hz). 13C NMR (D2O) δ 44.86, 46.77, 47.03, 53.41, 53.66, 56.18, 60.24, 124.83, 125.00, 125.06, 125.85, 132.32, 134.83, 141.99, 142.06, 152.20, 152.31, 152.41. Mass spectrum (FAB); m/e (relative intensity); 838 (M+HBr, 4), 836 (M+HBr, 4), 756 (M+1, 14), 429 (20), 307 (60), 215 (100). C44H66N12 Br8 requires C, 37.68; H, 4.74; N, 11.98; Br, 45.58; Found: C, 37.86; H, 4.94; N, 11.90; Br, 45.33.

reactant | 17,17'-[1,4-phenylenebis(methylene)]bis[3,6,14-tris(p-toluenesulphonyl)-3,6,14,17,23,24-hexaazatricyclo[17.3.1.18,12 ]tetracosa-1(23),8,10,12(24),19,21-hexaene] | 0.166 mmol, 280 mg | C1(=CC=C(C=C1)CN1CCN(CC=2C=CC=C(CN(CCN(CC=3C=CC=C(C1)N3)S(=O)(=O)C3=CC=C(C=C3)C)S(=O)(=O)C3=CC=C(C=C3)C)N2)S(=O)(=O)C2=CC=C(C=C2)C)CN2CCN(CC=3C=CC=C(CN(CCN(CC=1C=CC=C(C2)N1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)N3)S(=O)(=O)C3=CC=C(C=C3)C | C86H94N12O12S6
reactant | H2SO4 | 2 ml | OS(=O)(=O)O | H2O4S
reactant | NaOH | 10N | [OH-].[Na+]
reactant | HBr | Br | BrH
solvent | EtOH | 10 ml | CCO | C2H6O
product | 17,17'-[1,4-phenylenebis(methylene)]bis-3,6,14,17,23,24-hexaazatricyclo-[17.3.1.18,12 ]tetracosa-1(23),8,10,12(24),19,21-hexaene octahydrobromide | 135 mg, 58% | Br.Br.Br.Br.Br.Br.Br.Br.C1(=CC=C(C=C1)CN1CCNCC=2C=CC=C(CNCCNCC=3C=CC=C(C1)N3)N2)CN2CCNCC=3C=CC=C(CNCCNCC=1C=CC=C(C2)N1)N3 | InChI=1S/C44H58N12.8BrH/c1-5-37-25-45-17-19-47-27-41-9-3-11-43(53-41)33-55(23-21-49-29-39(7-1)51-37)31-35-13-15-36(16-14-35)32-56-24-22-50-30-40-8-2-6-38(52-40)26-46-18-20-48-28-42-10-4-12-44(34-56)54-42;;;;;;;;/h1-16,45-50H,17-34H2;8*1H
